### PR TITLE
feat(Morphisms/WeaklyEtale): fill `Etale` and `Spec_iff` sorries

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Fill the two `sorry`s in `Proetale/Morphisms/WeaklyEtale.lean`, upstreamed from the `archon` branch.

- `instance : HasRingHomProperty @WeaklyEtale RingHom.WeaklyEtale` now uses `HasRingHomProperty.copy` to explicitly identify the predicate produced by `of_isZariskiLocalAtSource_of_isZariskiLocalAtTarget` with `RingHom.WeaklyEtale`, replacing the previous `convert ... simp` form.
- `instance (priority := 900) etale [WeaklyEtale f] [LocallyOfFinitePresentation f] : Etale f` is now derived through `FormallyUnramified` using `HasRingHomProperty.iff_appLE` and `Etale.of_formallyUnramified_of_flat`. The helper `RingHom.WeaklyEtale.formallyUnramified` is added as a `private` lemma to transport the algebra-level `Algebra.FormallyUnramified` to the ring-hom form.
- `Spec_iff` follows directly from `HasRingHomProperty.Spec_iff`.

No new sorries; the file is sorry-free after this change.

## Test plan

- [x] `lake build Proetale.Morphisms.WeaklyEtale` succeeds.
- [x] `lake build` (full project) succeeds.
- [x] `lake exe mk_all --git --check` passes.
- [x] `grep -n "sorry" Proetale/Morphisms/WeaklyEtale.lean` returns nothing.

### CODE REVIEW

File: Proetale/Morphisms/WeaklyEtale.lean [hunk 1]
```diff
@@ -23,17 +23,37 @@ variable {X Y : Scheme.{u}} (f : X ⟶ Y)
 
 namespace WeaklyEtale
 
-instance (priority := 900) etale [WeaklyEtale f] [LocallyOfFinitePresentation f] : Etale f :=
-  sorry
+instance : HasRingHomProperty @WeaklyEtale.{u} RingHom.WeaklyEtale := by
+  haveI := HasRingHomProperty.of_isZariskiLocalAtSource_of_isZariskiLocalAtTarget @WeaklyEtale.{u}
+  refine HasRingHomProperty.copy (P := @WeaklyEtale.{u}) rfl ?_
+  intro R S _ _ f
+  letI : Algebra R S := f.toAlgebra
```
Comment (chrisflav) [inline Proetale/Morphisms/WeaklyEtale.lean]: Use `algebraize`.

File: Proetale/Morphisms/WeaklyEtale.lean [hunk 2]
```diff
@@ -23,17 +23,37 @@ variable {X Y : Scheme.{u}} (f : X ⟶ Y)
 
 namespace WeaklyEtale
 
-instance (priority := 900) etale [WeaklyEtale f] [LocallyOfFinitePresentation f] : Etale f :=
-  sorry
+instance : HasRingHomProperty @WeaklyEtale.{u} RingHom.WeaklyEtale := by
+  haveI := HasRingHomProperty.of_isZariskiLocalAtSource_of_isZariskiLocalAtTarget @WeaklyEtale.{u}
```
Comment (chrisflav) [inline Proetale/Morphisms/WeaklyEtale.lean]: Don't use `haveI` in proofs.

File: Proetale/Morphisms/WeaklyEtale.lean [hunk 3]
```diff
@@ -23,17 +23,37 @@ variable {X Y : Scheme.{u}} (f : X ⟶ Y)
...
+  rw [hf, weaklyEtale_iff, diagonal_SpecMap R S,
+    MorphismProperty.cancel_right_of_respectsIso (P := @Flat),
+    HasRingHomProperty.Spec_iff (P := @Flat), HasRingHomProperty.Spec_iff (P := @Flat)]
+  simp only [CommRingCat.hom_ofHom, autoParam, RingHom.flat_algebraMap_iff,
+    RingHom.weaklyEtale_algebraMap_iff, Algebra.weaklyEtale_iff]
+
+/-- A weakly étale ring map is formally unramified. -/
+private lemma _root_.RingHom.WeaklyEtale.formallyUnramified
+    {R S : Type*} [CommRing R] [CommRing S] {f : R →+* S} (hf : f.WeaklyEtale) :
+    f.FormallyUnramified := by
```
Comment (chrisflav) [inline Proetale/Morphisms/WeaklyEtale.lean]: This should not be `private` and be moved to an earlier file.

**Comment by chrisflav** [comment]
orchestra address review
